data/oMe_Silver.jsonl
{"reaction_id": "NR-319_1-c1ccc(OC)cc1_2-C_3-c1ccccc1_4-c1ccc(Br)cc1","level": "medium","name": "Wharton Reaction","reactants_smiles": ["C(=O)(c1ccc(OC)cc1)C1(C)OC1(c1ccccc1)c1ccc(Br)cc1","NN"],"products_smiles": ["[CH](=C(C)C(O)(c1ccccc1)c1ccc(Br)cc1)c1ccc(OC)cc1"],"conditions": "Acid/Base catalyst (e.g., Acetic Acid)","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(=NN)(c1ccc(OC)cc1)C1(C)OC1(c1ccccc1)c1ccc(Br)cc1","step_weight": 0,"rationale": "Hydrazine acts as a nucleophile, attacking the electrophilic carbonyl carbon due to its partial positive charge, facilitated by acid/base catalysis that activates the carbonyl."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[NH2+]=NC(c1ccc(OC)cc1)=C(C)C(O)(c1ccccc1)c1ccc(Br)cc1","step_weight": 0,"rationale": "Protonation of the leaving group and resonance stabilization of the diazonium-like intermediate promote elimination of the cyclic ether moiety."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N=NC(c1ccc(OC)cc1)=C(C)C(O)(c1ccccc1)c1ccc(Br)cc1","step_weight": 0,"rationale": "Proton transfer neutralizes charge and generates the neutral diazene, stabilizing the intermediate for the next elimination step."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[C-](=C(C)C(O)(c1ccccc1)c1ccc(Br)cc1)c1ccc(OC)cc1","step_weight": 0,"rationale": "Loss of nitrogen gas is highly favorable due to its inertness and strong N≡N bond, forming a carbanion stabilized by adjacent substituents."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[CH](=C(C)C(O)(c1ccccc1)c1ccc(Br)cc1)c1ccc(OC)cc1","step_weight": 0,"rationale": "Protonation of the carbanion yields the alkene, driven by the thermodynamic stability of the C=C bond and relief of negative charge."}],"description": "In the Wharton reaction, hydrazine attacks the carbonyl to form a hydrazone, which under acidic/basic conditions eliminates to form a diazene intermediate. Subsequent proton transfers and nitrogen extrusion yield the alkene, driven by the stability of N₂ and conjugated product."}
{"reaction_id": "NR-228_1-C(F)(F)F_2-Cc1ccccc1_3-C_4-c1ccccc1_5-C(C)C","level": "easy","name": "Prilezhaev Reaction","reactants_smiles": ["C(C(F)(F)F)=C(Cc1ccccc1)(C)","c1ccccc1C(=O)OC(C)C"],"products_smiles": ["C(C(F)(F)F)1OC1(Cc1ccccc1)C"],"conditions": "Peroxy acid","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(C(F)(F)F)1OC1(Cc1ccccc1)C","step_weight": 0,"rationale": "The alkene π electrons attack the electrophilic oxygen of the peroxy acid due to its polarization by the adjacent carbonyl, enabling a concerted transition state that minimizes charge separation and forms the epoxide efficiently."}],"description": "The alkene undergoes electrophilic addition with the peroxy acid in a concerted Prilezhaev epoxidation, where the π bond attacks the electrophilic terminal oxygen of the peracid, forming a three-membered epoxide ring in a single step under mild conditions."}
{"reaction_id": "NR-032_1-C_2-C","name": "Büchner-Curtius-Schlotterbeck Reaction","level": "medium","reactants_smiles": ["C(=O)(C)(C)","C=[N+]=[N-]"],"products_smiles": ["C(=O)(C)(CC)"],"conditions": "","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C([O-])(C[N+]#N)(C)(C)","step_weight": 0,"rationale": "The azide nitrogen lone pair attacks the electrophilic carbonyl carbon, whose partial positive charge is enhanced by the electron-withdrawing oxygen, forming a tetrahedral intermediate stabilized by resonance."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=O)(C)(CC)","step_weight": 0,"rationale": "Thermal conditions promote a 1,2-shift as nitrogen gas leaves, driven by the stability of the carbonyl and relief of electron deficiency at the migrating carbon."}],"description": "The reaction proceeds via nucleophilic addition of an organoazide to the carbonyl, forming a tetrahedral intermediate. Under the conditions, a 1,2-shift occurs, driven by nitrogen extrusion and formation of a more stable carbonyl product with rearranged substituents."}
